US04367238
3-n-Hexyl-7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one was hydrolyzed by treating with potassium hydroxide-methanol to give 2-[2-hydroxy-3-(o-tolylthio)phenyl]octanoic acid, mp. 90°-91° C.

reactant | 3-n-Hexyl-7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one | C(CCCCC)C1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)C)=O | C21H24O2S
reactant | potassium hydroxide methanol | [OH-].[K+].CO
product | 2-[2-hydroxy-3-(o-tolylthio)phenyl]octanoic acid | OC1=C(C=CC=C1SC1=C(C=CC=C1)C)C(C(=O)O)CCCCCC | C21H26O3S
